Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Cervical spinal stenosis
 
Major Surgical or Invasive Procedure:
S/p C5-7 laminectomies

 
History of Present Illness:
(HPI from Dr. ___ clinic note):
A ___ female who had seen a couple
of years ago for cervical spondylosis.  She has a history of
neuromyelitis optica and potentially multiple sclerosis.  She is
coming here after she has some symptoms of right upper extremity
with difficulty using her arms and dropping things.  The patient
was reexamined and she definitely has some weakness on the left
side of ___ universally in the upper extremity.  Right side
seems to be relatively okay.  She has difficulty using her hands
and she is dropping things.  She has proprioception issues as
well with the right upper extremity more than the left.

At this point, we suggested that the patient gets an MRI which
was reviewed.  The MRI was showing a central stenosis at C5-C6,
C6-C7 with myelomalacia, but also shows what lesions seem to be
MS plaques higher in the cervical spine that may be causing her
symptomatology or part of it.

 
Past Medical History:
GASTROINTESTINAL BLEEDING
BACK PAIN
NEUROMYELITIS OPTICA
 
Social History:
___
Family History:
No MS/autoimmune disorders in family. Mother had gastric/liver 
cancer.

 
Physical Exam:
Upon discharge:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Motor:

 Delt Bic Tri DIO Grip
Right ___ 5 5
Left ___ 5 5

IP Quad Ham AT ___
Right ___
Left ___

[-]Clonus [x]Sensation intact to light touch
[x]Proprioception intact
[x]Patient endorses mild numbness and tingling on volar aspect 
of right hand, unchanged from preop 
 
Pertinent Results:
Please see OMR for pertinent results
 
Brief Hospital Course:
The patient presented as a same day admission for surgery. The 
patient was taken to the operating room on ___ for C5-7 
posterior laminectomies, which the patient tolerated well. For 
full details of the procedure please see the separately dictated 
operative report. The patient was taken from the OR to the PACU 
in stable condition and after satisfactory recovery from 
anesthesia was transferred to the floor. The patient was 
initially given IV fluids and IV pain medications, and 
progressed to a regular diet and oral medications by POD#1. The 
patient was given ___ antibiotics and anticoagulation 
per routine. The patient's home medications were continued 
throughout this hospitalization. The ___ hospital course 
was otherwise unremarkable.

At the time of discharge the patient's pain was well controlled 
with oral medications, incisions were clean/dry/intact, and the 
patient was voiding/moving bowels spontaneously. The patient 
will follow up with Dr. ___ routine. A thorough 
discussion was had with the patient regarding the diagnosis and 
expected post-discharge course including reasons to call the 
office or return to the hospital, and all questions were 
answered. The patient was also given written instructions 
concerning precautionary instructions and the appropriate 
follow-up care. The patient expressed readiness for discharge.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Carbamazepine (Extended-Release) 300 mg PO BID 
2. Gabapentin 300 mg PO TID 
3. linaCLOtide 290 mcg oral DAILY 
4. Pantoprazole 40 mg PO Q12H 
5. Vitamin D 4000 UNIT PO DAILY 
6. Docusate Sodium 200 mg PO BID 
7. Magnesium Oxide 400 mg PO BID 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO 5X/DAY  
2.  Bisacodyl 10 mg PO/PR DAILY:PRN constipation  
3.  Diazepam 2 mg PO Q8H:PRN muscle spasm 
RX *diazepam 2 mg 1 by mouth q8 PRN Disp #*10 Tablet Refills:*0 
4.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth q4 PRN Disp #*15 
Tablet Refills:*0 
5.  Senna 17.2 mg PO QHS  
6.  Carbamazepine (Extended-Release) 300 mg PO BID  
7.  Docusate Sodium 200 mg PO BID  
8.  Gabapentin 300 mg PO TID  
9.  linaCLOtide 290 mcg oral DAILY  
10.  Magnesium Oxide 400 mg PO BID  
11.  Pantoprazole 40 mg PO Q12H  
12.  Vitamin D 4000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Cervical spinal stenosis

 
Discharge Condition:
Opens eyes: [x]spontaneous [ ]to voice [ ]to noxious

Orientation: [x]Person [x]Place [x]Time

Follows commands: [ ]Simple [x]Complex [ ]None

Motor:

        Delt    Bic     Tri     DIO     Grip
Right   5       5       5       5       5
Left    5       5       5       5       5

IPQuadHamATEHLGast
___

[-]Clonus [x]Sensation intact to light touch
[x]Proprioception intact
[x]Patient endorses mild numbness and tingling on volar aspect 
of right hand, unchanged from preop 

 
Discharge Instructions:
Surgery
-Your dressing may come off on the second day after surgery. 
-Your incision is closed with staples. You will need staple 
removal. Please keep your incision dry until suture/staple 
removal.
-Do not apply any lotions or creams to the site. 
-Please avoid swimming for two weeks after suture/staple 
removal.
-Call your surgeon if there are any signs of infection like 
redness, fever, or drainage. 

Activity
-We recommend that you avoid heavy lifting, running, climbing, 
or other strenuous exercise until your follow-up appointment.
-You make take leisurely walks and slowly increase your activity 
at your own pace. ___ try to do too much all at once.
-No driving while taking any narcotic or sedating medication. 
-No contact sports until cleared by your neurosurgeon. 

Medications
***Please do NOT take any blood thinning medication (Aspirin, 
Ibuprofen, Plavix, Coumadin) until cleared by the neurosurgeon. 
-You may use Acetaminophen (Tylenol) for minor discomfort if you 
are not otherwise restricted from taking this medication.
-It is important to increase fluid intake while taking pain 
medications. We also recommend a stool softener like Colace. 
Pain medications can cause constipation. 
 
Followup Instructions:
___